US08076486B2
N-(2-fluoro-4-iodophenyl)-4-(1H-tetrazol-5-yl)pyridin-3-amine
3-[(2-fluoro-4-iodophenyl)amino]isonicotinonitrile (100 mg, 0.29 mmol), ammonium chloride (28 mg, 0.52 mmol), and sodium azide (35 mg, 0.54 mmol) were dispended into a seal tube equipped with a stirring bar. The seal tube was degassed by vacuum and recharging with nitrogen three times before addition of anhydrous DMF (3 mL). The mixture was heated at 100° C. for three days. The mixture was diluted with saturated NaHCO3 and washed with EtOAc. The aqueous phase was acidified with concentrated HCl to pH<1, and washed with EtOAc. The aqueous layer was dried to give the desired product. LC/MS [Method B: rt: 6.008 min; m/z: 383 (M+1)].

reactant | 3-[(2-fluoro-4-iodophenyl)amino]isonicotinonitrile | 0.29 mmol, 100 mg | FC1=C(C=CC(=C1)I)NC1=C(C#N)C=CN=C1 | C12H7FIN3
reactant | ammonium chloride | 0.52 mmol, 28 mg | [Cl-].[NH4+]
reactant | sodium azide | 0.54 mmol, 35 mg | [N-]=[N+]=[N-].[Na+]
product | N-(2-fluoro-4-iodophenyl)-4-(1H-tetrazol-5-yl)pyridin-3-amine | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C1=NN=NN1 | C12H8FIN6
